US06541638B2
Z-N-Me-Asp(OtBu)—OH DCHA salt (1:1) and N-Benzylmethylamine according to 1.2., followed by deprotection (6.1.) and treatment with HCl/MeOH to give (S)-N-Benzyl-N-methyl-3-methylamino-succinamic acid tert-butyl ester-HCl, MS: 307 (MH+)

reactant | Z-N-Me-Asp(OtBu)—OH DCHA | CC(C)(C)OC(=O)C[C@@H](C(=O)O)N(C)C(=O)OCC1=CC=CC=C1.C1CCC(CC1)NC2CCCCC2
reactant | N-Benzylmethylamine | C(C1=CC=CC=C1)CN | C8H11N
reactant | HCl MeOH | Cl.CO
product | (S)-N-Benzyl-N-methyl-3-methylamino-succinamic acid tert-butyl ester-HCl | Cl.C(C)(C)(C)OC(C[C@@H](C(=O)N(C)CC1=CC=CC=C1)NC)=O | InChI=1S/C17H26N2O3.ClH/c1-17(2,3)22-15(20)11-14(18-4)16(21)19(5)12-13-9-7-6-8-10-13;/h6-10,14,18H,11-12H2,1-5H3;1H/t14-;/m0./s1
